### PR TITLE
feat(Analysis/LocallyConvex): induction principles for `WithSeminorm`

### PR DESCRIPTION
**Pull request by mcdoll**
Adds two "induction principles" for seminorms: a property holds for a continuous seminorm if it holds for all seminorms that induce the topology, the zero seminorm, is monotone, and closed under taking suprema and scalar multiplication.

We add two versions: one where we checked suprema and one where we check addition (the later being more convenient in practice).

Co-authored-by: Anatole Dedecker <anatolededecker@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 1]
```diff
@@ -911,6 +911,57 @@ lemma bound_of_continuous [t : TopologicalSpace E] (hp : WithSeminorms p)
...
+lemma bound_sum_of_continuous [t : TopologicalSpace E] (hp : WithSeminorms p)
+    (q : Seminorm 𝕜 E) (hq : Continuous q) :
+    ∃ s : Finset ι, ∃ C : ℝ≥0, C ≠ 0 ∧ q ≤ C • ∑ i ∈ s, p i := by
+  obtain ⟨s, C, C_ne, hC⟩ := bound_of_continuous hp q hq
+  use s, C, C_ne
+  calc
+    _ ≤ C • s.sup p := hC
+    _ ≤ _ := by gcongr; apply finset_sup_le_sum
+
+@[elab_as_elim]
```
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: I don't think these actually work with `elab_as_elim`? I think Lean won't be able to infer the motive in practice because there's no relation to the `Continuous q` hypothesis.

Of course, that doesn't mean these lemmas aren't useful anyway. I can't remember if there's a trick to dealing with this, or if it's just hopeless.

Comment (mcdoll) [reply Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: You are right, in my case it is then used with `refine`. Sorry, forgot to check that.

Comment (mcdoll) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]:
```suggestion
```

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 2]
```diff
@@ -911,6 +911,57 @@ lemma bound_of_continuous [t : TopologicalSpace E] (hp : WithSeminorms p)
...
+  classical
+  rcases bound_of_continuous hp q cont with ⟨s, C, hC, hs⟩
+  refine le _ _ hs (smul _ _ ?_)
+  refine s.induction_on ?_ ?_
+  · simpa [bot_eq_zero] using zero
+  · intro _ t _ ht
+    rw [Finset.sup_insert]
+    exact sup _ _ (base _) ht
+
+@[elab_as_elim]
```
Comment (mcdoll) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]:
```suggestion
```

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 3]
```diff
@@ -911,6 +911,55 @@ lemma bound_of_continuous [t : TopologicalSpace E] (hp : WithSeminorms p)
...
+    {q : Seminorm 𝕜 E} (cont : Continuous q) :
+    motive q := by
+  classical
+  rcases bound_sum_of_continuous hp q cont with ⟨s, C, hC, hs⟩
+  refine le _ _ hs (smul _ _ ?_)
+  refine s.induction_on ?_ ?_
+  · simpa using zero
+  · intro i t i_nmem ht
+    rw [Finset.sum_insert i_nmem]
+    exact add _ _ (base _) ht
```
Comment (sgouezel) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]:
```suggestion
    motive q :=
  induction_sup_of_continuous hp base zero 
    (fun r s hr hs ↦ le _ _ (fun x ↦ by simp) (add r s hr hs)) le smul cont
```
Instead of redoing the proof, you can deduce it from the sup case.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: That's very slick, thanks!

**Comment by mcdoll** [comment]
bors merge
